US05155118
Part B: Preparation of 3-[1-(4-Nitrobenzyl)-2-butyl-4-chloroimidazol-5-yl]propenoic acid, ethyl ester, E and Z isomers
A mixture of 1.2 g of 1-(4-nitrobenzyl)-2-butyl-4-chloroimidazole-5-aldehyde and 1.5 g of (carboxymethylene)triphenylphosphorane in 50 mL of benzene was refluxed for 2 hours. The reaction mixture was concentrated and the residue was purified by flash column chromatography on silica gel (Hexane: EtOAc=3:1 elution). The major product, the E isomer, was eluted first and was obtained as a thick oil initially which solidified to give an amorphous solid, 1.2 g. The minor product, the Z isomer was eluted next and was isolated as a thick liquid, 85 mg. E isomer: NMR (200 MHz, CDCl3): 7.3 and 6.53 (d, 2H, 5=16 Hz); 5.3 (s, 2H); 2.62 (t, 2H, J=7.3 Hz); 1.69 (m, 2H); 1.28 (m, 5H); 0.89 (t, 3H, J=7.3 Hz). Z isomer: NMR (200 MHz, CDCl3): (key peaks only) δ 6.45 and 6.02 (d, 2H, J=11.8 Hz); 5.17 (s, 2H).

reactant | 1-(4-nitrobenzyl)-2-butyl-4-chloroimidazole-5-aldehyde | 1.2 g | [N+](=O)([O-])C1=CC=C(CN2C(=NC(=C2C=O)Cl)CCCC)C=C1 | C15H16ClN3O3
reactant | (carboxymethylene)triphenylphosphorane | 1.5 g | C(=O)(O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17O2P
reactant | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 3-[1-(4-Nitrobenzyl)-2-butyl-4-chloroimidazol-5-yl]propenoic acid, ethyl ester | [N+](=O)([O-])C1=CC=C(CN2C(=NC(=C2C=CC(=O)OCC)Cl)CCCC)C=C1 | C19H22ClN3O4
